US08877968B2
0.07 g (0.15 mmol) of ethyl 1-[(R)-2-amino-3-(3,4-dichlorophenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate and 34 mg (0.17 mmol) of para-nitrophenyl chloroformate are dissolved in 5 mL of dichloromethane. The mixture is stirred for 2 hours at room temperature and the solution is then poured into water and extracted with dichloromethane. The organic phase is dried over sodium sulfate, filtered and concentrated to dryness. The colourless oil obtained is diluted in 5 mL of dimethylformamide, the mixture is heated to 80° C., and 57 mg (0.16 mmol) of 3-(1H-imidazol-4-yl)propylamine bis(trifluoroacetate) are added with 0.05 mL (0.3 mmol) of diisopropylamine. The solution is stirred for 5 minutes at 80° C. and for 16 hours at room temperature. The reaction is stopped by adding aqueous 1N sodium hydroxide solution and then extracted with dichloromethane. The organic phase is washed with water and then dried over sodium sulfate, filtered and evaporated to dryness. The oil obtained is chromatographed (eluent: 90/10 DCM/MeOH). 40 mg of ethyl 4-cyclohexyl-1-((R)-3-(3,4-dichlorophenyl)-2-{3-[3-(1H-imidazol-4-yl)propyl]ureido}-propionyl)piperidine-4-carboxylate in the form of a colourless oil are obtained in a yield of 44%.

reactant | ethyl 1-[(R)-2-amino-3-(3,4-dichlorophenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate | 0.15 mmol, 0.07 g | N[C@@H](C(=O)N1CCC(CC1)(C(=O)OCC)C1CCCCC1)CC1=CC(=C(C=C1)Cl)Cl | C23H32Cl2N2O3
reactant | para-nitrophenyl chloroformate | 0.17 mmol, 34 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3-(1H-imidazol-4-yl)propylamine bis(trifluoroacetate) | 0.16 mmol, 57 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.N1C=NC(=C1)CCCN
reactant | diisopropylamine | 0.3 mmol, 0.05 mL | C(C)(C)NC(C)C | C6H15N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-cyclohexyl-1-((R)-3-(3,4-dichlorophenyl)-2-{3-[3-(1H-imidazol-4-yl)propyl]ureido}-propionyl)piperidine-4-carboxylate | 40 mg, yield of 44% | C1(CCCCC1)C1(CCN(CC1)C([C@@H](CC1=CC(=C(C=C1)Cl)Cl)NC(=O)NCCCC=1N=CNC1)=O)C(=O)OCC | C30H41Cl2N5O4
